US07919519B2
2-(4-(tert-Butyldimethylsilyloxy)benzyl)pyrimidine
Zinc (0.33 g, 4.97 mmol) and iodine (0.008 g, 0.033 mmol) were added to an oven-dried flask (25 mL). The mixture was heated under vacuum with a heat gun for 10 min, cooled to RT, placed under argon atmosphere, suspended in 3 mL DMF (dry, degassed by bubbling nitrogen through it for 10 min), and cooled to 0° C. (4-(Bromomethyl)phenoxy)(tertbutyl)dimethylsilane (1.00 g, 3.31 mmol) was added as a solution in 3 mL DMF, the mixture was stirred at 0° C. for 30 min, then room temperature for 30 min. Next, 2-bromopyrimidine (526 mg, 3.31 mmol), Pd2 dba3 (0.091 mg, 0.099 mmol), and S-Phos (0.163 g, 0.40 mmol) were added. The flask was purged with argon and heated for 1 h at 60° C., cooled to RT, filtered through Celite, and concentrated in vacuo. The resulting solid was purified by flash chromatography to give title compound as a light yellow oil. MS (ESI) m/z: Calculated: 300.2; Observed: 301.5 (M++1).

reactant | iodine | 0.033 mmol, 0.008 g | II | I2
reactant | (4-(Bromomethyl)phenoxy)(tertbutyl)dimethylsilane | 3.31 mmol, 1.00 g | BrCC1=CC=C(O[Si](C)(C)C(C)(C)C)C=C1 | C13H21BrOSi
reactant | 2-bromopyrimidine | 3.31 mmol, 526 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | S-Phos | 0.40 mmol, 0.163 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Zinc | 4.97 mmol, 0.33 g | [Zn] | Zn
catalyst | Pd2 dba3 | 0.099 mmol, 0.091 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-(tert-Butyldimethylsilyloxy)benzyl)pyrimidine | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CC2=NC=CC=N2)C=C1 | C17H24N2OSi
